US07105680B1
4-bromomethyl-2-(4-methoxymethoxyphenyl)benzoxazole (F15) was prepared in a similar manner for the preparation of 4-bromomethyl-2-(5-methoxy-2-methoxymethoxyphenyl)benzoxazole (F12) by using 2-(4-methoxymethoxyphenyl)-4-methylbenzoxazole (F11) (4.04 g, 15 mmol) instead of 2-(5-methoxy-2-methoxymethoxyphenyl)-4-methylbenzoxazole (F8) in 80% (4.16 g): 1H-NMR (500 MHz, CDCl3) δ3.60 (s, 3H), 3.97 (s, 3H), 3.99 (s, 3H), 4.96 (s, 2H), 5.31 (s, 2H), 6.85 (s, 1H), 7.30 (t, 1H, J=8.0 Hz), 7.40 (d, 1H, J=8.0 Hz), 7.51 (d, 1H, J=8.0 Hz), 7.66 (s, 1H).

reactant | 4-bromomethyl-2-(5-methoxy-2-methoxymethoxyphenyl)benzoxazole | BrCC1=CC=CC2=C1N=C(O2)C2=C(C=CC(=C2)OC)OCOC | C17H16BrNO4
reactant | 2-(4-methoxymethoxyphenyl)-4-methylbenzoxazole | 15 mmol, 4.04 g | COCOC1=CC=C(C=C1)C=1OC2=C(N1)C(=CC=C2)C | C16H15NO3
product | 4-bromomethyl-2-(4-methoxymethoxyphenyl)benzoxazole | BrCC1=CC=CC2=C1N=C(O2)C2=CC=C(C=C2)OCOC | C16H14BrNO3
